US09403835B2
Step 2: [2-((R)-azepan-4-yloxy)-4-fluoro-phenyl]-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-methanone
A solution of (R)-4-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-5-fluoro-phenoxy]-azepane-1-carboxylic acid tert-butyl ester (173 mg; 0.31 mmol; 1 eq.) in a 4M solution of HCl in 1,4-dioxane (2 mL) was stirred at room temperature for 16 hours. The residue was diluted with 0.1M NaOH and extracted with DCM (2×). The combined organic phase was dried over magnesium sulfate and concentrated in vacuo. Purification by mass directed preparative HPLC afforded the title compound (27 mg, 17%) as a yellow solid. 1H NMR (DMSO-d6) δ 8.34 (s, 1H), 7.37 (ddd, J=8.5, 6.8, 3.2 Hz, 1H), 7.12 (dd, J=11.8, 2.3 Hz, 1H), 6.87 (td, J=8.4, 2.3 Hz, 1H), 4.88-4.72 (m, 2H), 4.54 (d, J=15.8 Hz, 2H), 3.10-2.74 (m, 7H), 2.61 (s, 1.5H), 2.56 (s, 1.5H), 2.11-1.49 (m, 6H). HPLC (max plot) 96.2%, Rt 2.91 min. UPLC/MS: (MS+) 458.4 ([M+H]+).

reactant | (R)-4-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-5-fluoro-phenoxy]-azepane-1-carboxylic acid tert-butyl ester | 0.31 mmol, 173 mg, 1 eq. | C(C)(C)(C)OC(=O)N1CC[C@@H](CCC1)OC1=C(C=CC(=C1)F)C(=O)N1CC=2C(=C3N=C(C(=C(N3N2)C)Cl)C)C1 | C28H33ClFN5O4
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | NaOH | 0.1M | [OH-].[Na+]
product | [2-((R)-azepan-4-yloxy)-4-fluoro-phenyl]-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-methanone | 27 mg, 17% | N1CC[C@@H](CCC1)OC1=C(C=CC(=C1)F)C(=O)N1CC=2C(=C3N=C(C(=C(N3N2)C)Cl)C)C1 | C23H25ClFN5O2
